US09340527B2
To the solution of 5-methoxy-2-nitrobenzaldehyde (6 g, 0.33 mol) in EtOAc (100 mL) was added 20% PtO2/C (1.2 g, 20%) and NaOAc (1.2 g, 20%). The reaction was stirred under hydrogen at room temperature for 0.5 h. The mixture was filtered through a Celite pad, and the filtrate was dried over anhydrous Na2SO4. After filtration, the solution was cooled to −78° C., and to which was added DIPEA (6.4 g, 0.5 mol, 1.5 eq) and 2-chloro-2-oxoethyl acetate (4.5 g, 0.33 mol, 1.0 eq). The resulting mixture was gradually warmed up to room temperature and stirred overnight. The reaction mixture was washed with water twice, dried over Na2SO4 and evaporated most of the solvent in vacuum. Then the solid separating out was collected by filtration to give 2-(2-formyl-4-methoxyphenylamino)-2-oxoethyl acetate (5.6 g, yield: 71%) as a light yellow solid.

reactant | 5-methoxy-2-nitrobenzaldehyde | 0.33 mol, 6 g | COC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C8H7NO4
reactant | NaOAc | 1.2 g | CC(=O)[O-].[Na+]
reactant | DIPEA | 0.5 mol, 6.4 g, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-2-oxoethyl acetate | 0.33 mol, 4.5 g, 1.0 eq | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | PtO2 | O=[Pt]=O
product | 2-(2-formyl-4-methoxyphenylamino)-2-oxoethyl acetate | 5.6 g, yield: 71% | C(C)(=O)OCC(=O)NC1=C(C=C(C=C1)OC)C=O | C12H13NO5
